data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(F)ccc1Cl)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(F)ccc1Cl)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(F)ccc1Cl)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cc(F)ccc2Cl)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cc(F)ccc2Cl)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cc(F)ccc2Cl)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cc(F)ccc2Cl)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cc(F)ccc2Cl)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cc(F)ccc2Cl)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2cc(F)ccc2Cl)O1.[Rh]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)C)c([Si](C)(C)C)c2Br", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Br)c([Si](C)(C)C)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Br)c([Si](C)(C)C)c([Si](C)(C)C)cc1=C", "products": "C[C@]12CC[C@@H]3c4c(cc([Si](C)(C)C)c([Si](C)(C)C)c4Br)CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1cc(Cl)ccc1F)C1C2CCC1C2", "products": "[O][C](c1cc(Cl)ccc1F)C1C2CCC1C2"}, {"reactants": "[O][C](c1cc(Cl)ccc1F)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1cc(Cl)ccc1F"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1cc(Cl)ccc1F", "products": "OC(=CC1C=CCC1)c1cc(Cl)ccc1F"}, {"reactants": "OC(=CC1C=CCC1)c1cc(Cl)ccc1F", "products": "O=C(CC1C=CCC1)c1cc(Cl)ccc1F"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1ccccc1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "Cc1ccccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "Cc1ccccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "Cc1ccccc1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "Cc1ccccc1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "Cc1ccccc1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "Cc1ccccc1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "CC1=C(c2ccccc2C)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccccc2C)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccccc2C)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccccc2C)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1ccccc1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "Cc1ccccc1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "Cc1ccccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "Cc1ccccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "Cc1ccccc1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(CCl)COC)c([Si](C)(C)C)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(CCl)COC)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(CCl)COC)c([Si](C)(C)C)cc1=C", "products": "COC[Si](C)(CCl)c1cc2c(cc1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CC(F)C(C)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(F)C(C)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(F)C(C)N(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CC(F)C(C)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CC(F)C(C)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CC(F)C(C)N3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1cc(C2(O)C(=O)CC3CCC2(C)C3(C)C)ccc1F.[H+]", "products": "Cc1cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)ccc1F"}, {"reactants": "Cc1cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)ccc1F", "products": "Cc1cc([C+]2C(=O)CC3CCC2(C)C3(C)C)ccc1F.O"}, {"reactants": "Cc1cc([C+]2C(=O)CC3CCC2(C)C3(C)C)ccc1F", "products": "Cc1cc(C23CCC(CC2=O)C(C)(C)[C+]3C)ccc1F"}, {"reactants": "Cc1cc(C23CCC(CC2=O)C(C)(C)[C+]3C)ccc1F", "products": "CC1=C(c2ccc(F)c(C)c2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(F)c(C)c2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccc(F)c(C)c2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(F)c(C)c2)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)ccc1F"}, {"reactants": "Cc1cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)ccc1F", "products": "Cc1cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)ccc1F"}, {"reactants": "Cc1cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)ccc1F", "products": "Cc1cc(C2CCC3C(=O)OC2(C)C3(C)C)ccc1F.[H+]"}]}
